US20010016587A1
2-(4-Nitrobenzylidene)amino-3,3-dichloropropenonitrile (Compound 5)
A solution of 2-amino-3,3-dichloropropenonitrile (15.0 g, 0.11 mole) and 4-nitrobenzaldehyde (15.1 g, 0.10 mmol) in toluene (200 ml) was refluxed for 23 hours. The mixture was evaporated, methanol (100 ml) was added and the mixture was allowed to stand overnight. After filtration, the title compound was isolated as a brown-yellow solid.

reactant | 2-amino-3,3-dichloropropenonitrile | 0.11 mole, 15.0 g | NC(C#N)=C(Cl)Cl | C3H2Cl2N2
reactant | 4-nitrobenzaldehyde | 0.10 mmol, 15.1 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Nitrobenzylidene)amino-3,3-dichloropropenonitrile | [N+](=O)([O-])C1=CC=C(C=NC(C#N)=C(Cl)Cl)C=C1 | C10H5Cl2N3O2
